US06455525B1
To a mixture of 1,6-naphthyridine-2-carboxylic acid (1 g, 5.7 mmol) and 100 mL of methanol was added carefully ˜0.5 mL of conc. H2SO4. The mixture was kept under reflux overnight. The mixture was cooled to room temperature and solvent was evaporated. To the residue was added carefully (carbon dioxide evolution) half saturated sodium bicarbonate solution to neutralize the acid. The mixture was extracted from ethyl acetate (3 times) and the combined organic was washed with brine. After drying over anhydrous MgSO4, solvent was evaporated. The product, 1,6-naphthyridine-2-carboxylic acid methyl ester, (IIIe) was isolated as a solid (932 mg, 87% yield), which was used for the next step without further purification. A mixture of ester (IIIe) (322 mg, 1.71 mmol) and methylacetate (dry, 10 mL) was treated with NaH (60% dispersion in mineral oil, 100 mg, 2.5 mmol) and the resulting mixture was kept under reflux for 2 h, during which a cake formation was noticed. The reaction mixture was cooled to room temperature and solvent was evaporated. The residue was treated ˜20 mL of water. The mixture was neutralized with conc. HCl. A solid was obtained which was filtered, washed (water followed by hexane) and dried. Yield: 158 mg (40%). The product, ethyl 3-oxo-3-pyridino[3,4-e]pyridin-2-yl-propanoate, (Vf) was used for the next step without further purification.

reactant | 1,6-naphthyridine-2-carboxylic acid | 5.7 mmol, 1 g | N1=C(C=CC2=CN=CC=C12)C(=O)O | C9H6N2O2
reactant | H2SO4 | ˜0.5 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 100 mL | CO | CH4O
product | 1,6-naphthyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC=NC=C2C=C1 | C10H8N2O2
